* HFET1 output characteristics: Id vs Vds at multiple Vgs.
* Expected results: device_hfet1_output.expected.json
* Origin: benchmark/fixtures/devices/hfet1_output/circuit.sp
* Tests heterojunction FET level 1 physics.
Vds drain 0 DC 0
Vgs gate 0 DC 0
Z1 drain gate 0 nhf1
.model nhf1 NHFET(LEVEL=5 VTO=0.15 LAMBDA=0.15 MU=0.4 DI=4e-8 DELTA=3 VS=1.5e5 ETA=1.28 M=3 SIGMA0=0.057)
.dc Vds 0 3 0.02 Vgs -0.5 0.5 0.1
.end
